US09056874B2
5-Methyl-1-tosyl-1H-indol-4-amine
To a solution of tert-butyl (5-methyl-1-tosyl-1H-indol-4-yl)carbamate (10.5 g, 26.2 mmol) in DCM (197 mL) was added TFA (65.5 mL), and the mixture was stirred at room temperature. After 20 minutes the reaction was concentrated, dissolved in EtOAc, washed with sat. aq. NaHCO3, dried over MgSO4, filtered and concentrated. The resulting residue was purified by flash chromatography (0-70% EtOAc in heptanes) to provide the title compound. MS (ESI+) m/z 301.1 (M+H).

reactant | tert-butyl (5-methyl-1-tosyl-1H-indol-4-yl)carbamate | 26.2 mmol, 10.5 g | CC=1C(=C2C=CN(C2=CC1)S(=O)(=O)C1=CC=C(C)C=C1)NC(OC(C)(C)C)=O | C21H24N2O4S
reactant | TFA | 65.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 197 mL | C(Cl)Cl | CH2Cl2
product | 5-Methyl-1-tosyl-1H-indol-4-amine | CC1=C(C=2C=CN(C2C=C1)S(=O)(=O)C1=CC=C(C)C=C1)N | C16H16N2O2S
